US08557872B2
Step 3: Synthesis of 2-ethoxy-4-trifluoromethyl-benzaldehyde
N-Methoxy-N-methyl-2-ethoxy-4-trifluoromethyl-benzamide (1.04 g) was reacted with 1 M LAH (1 ml) at −40° C. for 2 hrs as described above to yield title compound (729 mg, 65%)

reactant | N-Methoxy-N-methyl-2-ethoxy-4-trifluoromethyl-benzamide | 1.04 g | CON(C(C1=C(C=C(C=C1)C(F)(F)F)OCC)=O)C | C12H14F3NO3
reactant | LAH | 1 M, 1 ml | [H-].[H-].[H-].[H-].[Li+].[Al+3]
product | 2-ethoxy-4-trifluoromethyl-benzaldehyde | 729 mg, 65% | C(C)OC1=C(C=O)C=CC(=C1)C(F)(F)F | C10H9F3O2
